US06878706B1
Cyanamide (5.04 g, 120 mmol) was dissolved in 40 mL of 40% sodium hydroxide. To this solution at 0° C., phenylacetyl chloride (3.97 mL, 30 mmol) in 30 mL of acetone was added over 1 h. After stirring at room temperature for 2 h, the reaction mixture as acidified with concentrated HCl to pH 2. Acetone was removed in vacuo. The resulting suspension was extracted with methylene chloride (30 mL×4). The combined organic extracts were washed with brine and dried over magnesium sulfate. Solvent was removed in vacuo to give N-cyano-2-phenylacetamide (3.96 g, 82%) as a yellow oil.

reactant | Cyanamide | 120 mmol, 5.04 g | N#CN | CH2N2
reactant | phenylacetyl chloride | 30 mmol, 3.97 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 40 mL | [OH-].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-cyano-2-phenylacetamide | 3.96 g, 82% | C(#N)NC(CC1=CC=CC=C1)=O | C9H8N2O
